* Reference solution: Sky130 LDO with a five-transistor error amplifier.
.subckt ldo_ota5 vin vout vss vref ibias fb gate_drive gate
XINP nleft fb tail vss sky130_fd_pr__nfet_01v8 l=1.0 w=64 nf=8
XINN gate_drive vref tail vss sky130_fd_pr__nfet_01v8 l=1.0 w=64 nf=8
XLOAD nleft nleft vin vin sky130_fd_pr__pfet_01v8 l=0.4 w=64 nf=8
XLOUT gate_drive nleft vin vin sky130_fd_pr__pfet_01v8 l=0.4 w=64 nf=8
XTAIL tail ibias vss vss sky130_fd_pr__nfet_01v8 l=0.5 w=128 nf=16
XBIAS ibias ibias vss vss sky130_fd_pr__nfet_01v8 l=0.5 w=64 nf=8
XPASS vout gate vin vin sky130_fd_pr__pfet_01v8 l=0.15 w=256 nf=32 m=10
.ends ldo_ota5
