* Public example: nominal LDO line regulation.
.lib "/opt/sky130/continuous/sky130.lib.spice" tt
.include "/app/circuit.spi"
.options filetype=ascii reltol=2e-4 abstol=1e-12 vntol=1e-6
.temp 27
VSS vss 0 0
VIN vin vss 1.8
VREF vref vss 0.8
IBIAS vin ibias 50u
ILOAD vout vss 10m
XLDO vin vout vss vref ibias fb_div gate_drive gate ldo_ota5
RFBTOP vout fb_div 300k
RFBBOT fb_div vss 600k
VLOOP gate_drive gate 0
RESR vout vcap 50m
COUT vcap vss 1u
.save v(vin) v(vout)
.dc VIN 1.62 1.98 0.02
.end
