* Standard two-stage Miller op amp with one external current-reference input.
* Every MOS uses an integer-micrometer unit-finger width (W/nf).
.subckt two_stage_miller_opamp vss iref vdd vinn vinp vout
* MOS terminal order: D G S B (drain gate source bulk/body).
XREF iref iref vss vss sky130_fd_pr__nfet_01v8 l=1 w=20 nf=5
XTAIL tail iref vss vss sky130_fd_pr__nfet_01v8 l=1 w=42 nf=7

XINN nleft vinn tail vss sky130_fd_pr__nfet_01v8 l=0.8 w=119 nf=17
XINP stage1 vinp tail vss sky130_fd_pr__nfet_01v8 l=0.8 w=119 nf=17
XLOADD nleft nleft vdd vdd sky130_fd_pr__pfet_01v8 l=1 w=96 nf=24
XLOADM stage1 nleft vdd vdd sky130_fd_pr__pfet_01v8 l=1 w=96 nf=24

* Current-derived PMOS bias for the second-stage load.
XOBN obias iref vss vss sky130_fd_pr__nfet_01v8 l=1 w=40 nf=4
XOBP obias obias vdd vdd sky130_fd_pr__pfet_01v8 l=1 w=96 nf=24
XSECOND vout stage1 vss vss sky130_fd_pr__nfet_01v8 l=0.3 w=80 nf=16
XLOAD vout obias vdd vdd sky130_fd_pr__pfet_01v8 l=0.6 w=288 nf=48

RZ stage1 comp 1.8k
CCOMP comp vout 0.45p
.ends two_stage_miller_opamp
