* TT nominal unity-feedback positive-supply rejection example.
.lib "/opt/sky130/continuous/sky130.lib.spice" tt
.include "/app/circuit.spi"
.options filetype=ascii reltol=2e-4 abstol=1e-12 vntol=1e-6
.temp 27
VSS vss 0 0
VDD vdd vss 1.8 AC 1
IREF vdd iref 50u
VIN vinp vss 0.9
VFB vout vinn 0
XAMP vss iref vdd vinn vinp vout two_stage_miller_opamp
CL vout vss 1p
.control
set noaskquit
ac dec 20 1k 1.01Meg
let rejection_db = -vdb(vout)
meas ac psrr_1khz_db find rejection_db at=1k
meas ac psrr_1mhz_db find rejection_db at=1Meg
print psrr_1khz_db psrr_1mhz_db
quit
.endc
.end
