* TT nominal unity-follower 100 mV settling example, both directions.
* The rising edge starts at 5 ns and is scored against 0.95 V inside the
* 5-65 ns window; the falling edge starts at 66 ns and is scored against
* 0.85 V inside the 66-130 ns window. Each window is three times the
* 20 ns limit, and the emitted scalars are the worse of the two edges.
.lib "/opt/sky130/continuous/sky130.lib.spice" tt
.include "/app/circuit.spi"
.options filetype=ascii reltol=2e-4 abstol=1e-12 vntol=1e-6
.temp 27
VSS vss 0 0
VDD vdd vss 1.8
IREF vdd iref 50u
VIN vinp vss PULSE(0.85 0.95 5n 1n 1n 60n 130n)
VFB vout vinn 0
XAMP vss iref vdd vinn vinp vout two_stage_miller_opamp
CL vout vss 1p
.control
set noaskquit
tran 100p 130n
let error_up = abs(v(vout) - 0.95)
meas tran cross_up when error_up=2m cross=last to=65n
meas tran final_up find v(vout) at=65n
let error_down = abs(v(vout) - 0.85)
meas tran cross_down when error_down=2m cross=last from=66n
meas tran final_down find v(vout) at=130n
let settling_time_s = max(max(0, cross_up - 5n), max(0, cross_down - 66n))
let settling_static_error_v = max(abs(final_up - 0.95), abs(final_down - 0.85))
let settling_error_fraction = settling_static_error_v / 0.1
print settling_time_s settling_static_error_v settling_error_fraction
quit
.endc
.end
