* TT nominal unity-feedback output-range example (contiguous span).
* The reported range is the contiguous span around the 0.9 V quiescent
* input that tracks within 20 mV. The first out-of-tolerance sample on
* each side cuts the segment; the 20 mV crossing is linearly interpolated
* against its adjacent in-tolerance sample to avoid 10 mV-grid censoring.
.lib "/opt/sky130/continuous/sky130.lib.spice" tt
.include "/app/circuit.spi"
.options filetype=ascii reltol=2e-4 abstol=1e-12 vntol=1e-6
.temp 27
VSS vss 0 0
VDD vdd vss 1.8
IREF vdd iref 50u
VIN vinp vss 0.9
VFB vout vinn 0
XAMP vss iref vdd vinn vinp vout two_stage_miller_opamp
CL vout vss 1p
.control
set noaskquit
dc VIN 0.3 1.5 0.01
let tracking_error = abs(v(vout) - v(vinp))
let ok = tracking_error <= 0.02
let bad = 1 - ok
meas dc center_error find tracking_error at=0.9
let center_ok = center_error <= 0.02
let bad_above = bad * (v(vinp) ge 0.9)
let bad_below = bad * (v(vinp) le 0.9)
let cand_hi = v(vinp) + 1e6 * (1 - bad_above)
meas dc bound_hi_raw min cand_hi
let cand_lo = v(vinp) - 1e6 * (1 - bad_below)
meas dc bound_lo_raw max cand_lo
let range_step = 0.01
let has_hi_bound = bound_hi_raw lt 100
let has_lo_bound = bound_lo_raw gt -100
let hi_bad_x = has_hi_bound * bound_hi_raw + (1 - has_hi_bound) * 1.5
let hi_good_x = hi_bad_x - range_step * has_hi_bound
let lo_bad_x = has_lo_bound * bound_lo_raw + (1 - has_lo_bound) * 0.3
let lo_good_x = lo_bad_x + range_step * has_lo_bound
meas dc hi_bad_error find tracking_error at=$&hi_bad_x
meas dc hi_good_error find tracking_error at=$&hi_good_x
meas dc lo_bad_error find tracking_error at=$&lo_bad_x
meas dc lo_good_error find tracking_error at=$&lo_good_x
let hi_fraction = (0.02 - hi_good_error) / (hi_bad_error - hi_good_error + 1e-30)
let lo_fraction = (lo_bad_error - 0.02) / (lo_bad_error - lo_good_error + 1e-30)
let range_high = hi_good_x + has_hi_bound * range_step * hi_fraction
let range_low = lo_bad_x + has_lo_bound * range_step * lo_fraction
let closed_loop_range_vpp = center_ok * (range_high - range_low)
print closed_loop_range_vpp
quit
.endc
.end
